US07776897B2
1-[5-(2-Chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclobutanecarboxylic acid (200 mg) was suspended in methylene chloride (7 ml) and then diisopropylethylamine (0.72 ml) and bromotris(pyrrolidino)phosphonium hexafluorophosphate salt (416 mg) were added thereto, followed by stirring at room temperature for 30 minutes. Then, 1-adamantanamine (104 mg) was added to the reaction solution and the whole was stirred at room temperature for 15 hours. The reaction solution was diluted with a saturated aqueous sodium bicarbonate solution (30 ml), followed by extraction with chloroform (20 ml×2). The organic layer was dried over anhydrous sodium sulfate and filtrated and then the solvent was removed by evaporation under reduced pressure. The resulting residue was purified by column chromatography (methanol:chloroform=2:98) and the resulting solid washed with hexane and diethyl ether to obtain 212 mg of N-1-adamantyl-1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclobutanecarboxamide (white solid).

reactant | 1-[5-(2-Chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclobutanecarboxylic acid | 200 mg | ClC1=C(C=CC=C1)C=1N(C(=NN1)C1(CCC1)C(=O)O)C | C14H14ClN3O2
reactant | diisopropylethylamine | 0.72 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromotris(pyrrolidino)phosphonium hexafluorophosphate salt | 416 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | 1-adamantanamine | 104 mg | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
product | N-1-adamantyl-1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclobutanecarboxamide | 212 mg | C12(CC3CC(CC(C1)C3)C2)NC(=O)C2(CCC2)C2=NN=C(N2C)C2=C(C=CC=C2)Cl | C24H29ClN4O
